US05162360
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-N'-[3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazol-5-yl]urea
A solution of 5-amino-3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazole (0.70 g, 2.2 mmol), 2,6-diisopropylphenylisocyanate (0.48 mL, 2.2 mmol), and cuprous iodide (cat) in acetonitrile was heated to reflux for 16 hours. The resulting solution was cooled (25° C.), concentrated in vacuo, and chromatographed on silica (90:10 hexane:ethyl acetate). The product containing fractions were combined and concentrated in vacuo. The resulting oil was crystallized from hexane to yield 0.40 g (34.7%) of the title compound as a white powder, m.p. 149°-151.5° C.

reactant | 5-amino-3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazole | 2.2 mmol, 0.70 g | NC1=CC(=NN1CC1=CC=CC=C1)CN(CCCC)CCCC | C19H30N4
reactant | 2,6-diisopropylphenylisocyanate | 2.2 mmol, 0.48 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2,6-bis(1-methylethyl)phenyl]-N'-[3-[(dibutylamino)methyl]-1-(phenylmethyl)-1H-pyrazol-5-yl]urea | 0.40 g, 34.7% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=CC(=NN1CC1=CC=CC=C1)CN(CCCC)CCCC | C32H47N5O
